US04379167
4-(1,2,3,4-Tetrahydroisoquinolin-2-yl)-1-(1-naphthyloxy)-2-butanol Hydrochloride
A mixture of 12.5 g. (0.05 mole) of 1-(1-naphthyloxy)-2-hydroxybutyl chloride, 9.97 g. (0.075 mole) of 1,2,3,4-tetrahydroisoquinoline and 300 ml. of isopropanol was refluxed for 15 hr. On standing at room temperature a crystalline precipitate formed. The mixture was filtered and the filtrate concentrated to dryness under reduced pressure. The semi-solid residue which crystallized was recrystallized from acetone. The 12.2 g. of crystalline solid material melted at 169°-171° C.

reactant | 1-(1-naphthyloxy)-2-hydroxybutyl chloride | 0.05 mole | C1(=CC=CC2=CC=CC=C12)OC(C(CC)O)Cl | C14H15ClO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.075 mole | C1NCCC2=CC=CC=C12 | C9H11N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(1,2,3,4-Tetrahydroisoquinolin-2-yl)-1-(1-naphthyloxy)-2-butanol Hydrochloride | Cl.C1N(CCC2=CC=CC=C12)CCC(COC1=CC=CC2=CC=CC=C12)O | InChI=1S/C23H25NO2.ClH/c25-21(13-15-24-14-12-18-6-1-2-8-20(18)16-24)17-26-23-11-5-9-19-7-3-4-10-22(19)23;/h1-11,21,25H,12-17H2;1H
